US08754103B2
4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoic acid (52 mg) was dissolved in DMF (2 mL). 3,3-difluoroazetidine hydrochloride (26 mg), diisopropylethylamine (35 μL) and HATU (93 mg) were added sequentially. After 24 h, added additional amounts of Diisopropylethylamine (105 μL) and HATU (279 mg). When the reaction was mostly complete, quenched with ethyl acetate/water, washed with 0.1N HCl, and concentrated NaHCO3. Purified on prep-TLC plate using 5% MeOH/dichloromethane. Isolated 37 mg of (3,3-difluoroazetidin-1-yl)(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)methanone (57%).

reactant | 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoic acid | 52 mg | FC(C1=NN=C2N1C=C(C=C2)C2=CC=C(C(=O)O)C=C2)(F)F | C14H8F3N3O2
reactant | 3,3-difluoroazetidine hydrochloride | 26 mg | Cl.FC1(CNC1)F
reactant | diisopropylethylamine | 35 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 93 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 105 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 279 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3,3-difluoroazetidin-1-yl)(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)methanone | 37 mg, 57% | FC1(CN(C1)C(=O)C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F)F | C17H11F5N4O
